US07135242B2
(Synthesis of 2,7-Dibromo-9,9-dioctylfluorene)
10.0 g (31.0 mmol) of 2,7-dibromofluorene, 19.7 g (89.0 mmol) of 1-bromooctane, 25 ml of dimethylsulfoxide, 24.9 g (623 mmol) of sodiumhydroxide and 50 ml of water were added to a 200 ml three-necked flask equipped with a reflux condenser, and this mixture was heated to 80° C. After the dissolution of the 2,7-dibromofluorene was confirmed, 608 mg (2.66 mmol) of benzyltriethylammonium chloride was added, and the resulting mixture was heated and agitated for 20 hours.

reactant | 2,7-dibromofluorene | 31.0 mmol, 10.0 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | 1-bromooctane | 89.0 mmol, 19.7 g | BrCCCCCCCC | C8H17Br
reactant | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
reactant | sodiumhydroxide | 623 mmol, 24.9 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 2.66 mmol, 608 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 50 ml | O | H2O
product | 2,7-Dibromo-9,9-dioctylfluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
